US05703240
2-Methoxy-5-(tetrazol-1-yl)phenylmethanol
Lithium borohydride (196 mg) was added to a stirred and cooled (ice-water bath) suspension, under nitrogen, of 2-methoxy-5-(tetrazol-1-yl) benzoic acid, methyl ester (1 g) in tetrahydrofuran (15 ml). After 2 min a solution of methanol (288 mg) in tetrahydrofuran (2 ml) was added over 1 min. The cooling bath was removed and the mixture stirred for 86 min. The solution was cooled (ice-water bath) and 3M aqueous hydrochloric acid (1/2-1 ml) was added, forming a thick gel. Water (5 ml) was added, followed by more 3M aqueous hydrochloric acid (5 ml). A solution of sodium nitrite (325 mg) in water (1 ml) was then added. After 11/4 h, water (15 ml) was added and the resulting solution was extracted with ethyl acetate. The organic phase was washed successively with dilute hydrochloric acid and water, and then dried (MgSO4). Evaporation gave a yellow solid which was stirred with ethyl acetate (ca 3 ml). Filtration gave a grey/white solid, which was washed with a mixture of ethyl acetate and petroleum ether (bp 60°-80°) (1:1) and dried to give the .title compound (331 mg); nmr, δ (d6 -DMSO), 3.88 (s,3H), 4.58 (d,2H, J=ca 8 Hz), 5.34 (t, 1H, J=ca 8 Hz), 7.20 (d, 1H, J=ca 10 Hz), 7.75 (dd, 1H, J=ca 10 Hz, J=ca 4 Hz), 7.86 (d, 1H, J=ca 4 Hz), 10.01 (s, 1H).

reactant | Lithium borohydride | 196 mg | [BH4-].[Li+]
reactant | 2-methoxy-5-(tetrazol-1-yl) benzoic acid, methyl ester | 1 g | COC1=C(C(=O)OC)C=C(C=C1)N1N=NN=C1 | C10H10N4O3
reactant | hydrochloric acid | 3M, 5 ml | Cl | ClH
reactant | sodium nitrite | 325 mg | N(=O)[O-].[Na+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | water | 1 ml | O | H2O
solvent | water | 15 ml | O | H2O
solvent | Water | 5 ml | O | H2O
solvent | ethyl acetate | ca 3 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 288 mg | CO | CH4O
product | 2-Methoxy-5-(tetrazol-1-yl)phenylmethanol | 331 mg | COC1=C(C=C(C=C1)N1N=NN=C1)CO | C9H10N4O2
